US05874427
N-(methanesulfonyl)-3-(octahydroindolizin-7-yl)-5-amino-1H-indole
The methanesulfonyl chloride (215 mg, 1.87 mmol) was added dropwise to a solution of the 3-(octahydroindolizin-7-yl)-5-amino-1H-indole (320 mg, 1.25 mmol) and triethylamine (0.5 ml) in 10 ml of dimethylformamide. The reaction was stirred at room temperature for 2.5 hours. The reaction was diluted with methanol and concentrated to give a dark semi-solid. This material was dissolved in a mixture of methylene chloride and water, made basic with an ammonium hydroxide solution, then extracted with methylene chloride. The extract was dried over sodium sulfate and concentrated to give a reddish brown oil. The material was purified on a flash column using silica gel (20% methanol in methylene chloride (ammonium hydroxide) as eluent) to give 210 mg of product. (49.7%).

reactant | methanesulfonyl chloride | 1.87 mmol, 215 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(octahydroindolizin-7-yl)-5-amino-1H-indole | 1.25 mmol, 320 mg | C1CCN2CCC(CC12)C1=CNC2=CC=C(C=C12)N | C16H21N3
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(methanesulfonyl)-3-(octahydroindolizin-7-yl)-5-amino-1H-indole | 210 mg | CS(=O)(=O)N1C=C(C2=CC(=CC=C12)N)C1CCN2CCCC2C1 | C17H23N3O2S
